US06552022B1
4-(4-Benzylamino-phenyl)-3,6-dihydro-2H-pyridine-1-carboxylic Acid tert-butyl Ester
To a solution of 4-(4-bromo-phenyl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester (0.34 g), benzylamine (0.12 g) and sodium tert-butoxide (0.13 g) in toluene (8 mL) were added tris(dibenzylidene acetone)dipalladium (2.2 mg) and Binap (4.6 mg) and the mixture was heated at 80° C. for 16 hours. The solution was then cooled to room temperature, filtered and the filtrate was evaporated under reduced pressure. The residue was purified by flash chromatography eluting with petroleum ether/AcOEt (90/10) and the oily residue was crystallized from diisopropyl ether to give the title compound (0.27 g) as white crystals.

reactant | 4-(4-bromo-phenyl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 0.34 g | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CC=C(C=C1)Br | C16H20BrNO2
reactant | benzylamine | 0.12 g | C(C1=CC=CC=C1)N | C7H9N
reactant | sodium tert-butoxide | 0.13 g | CC(C)([O-])C.[Na+]
solvent | toluene | 8 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylidene acetone)dipalladium | 2.2 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | Binap | 4.6 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=C(C4=CC=CC=C4C=C3)C5=C(C=CC6=CC=CC=C65)P(C7=CC=CC=C7)C8=CC=CC=C8 | C44H32P2
product | 4-(4-Benzylamino-phenyl)-3,6-dihydro-2H-pyridine-1-carboxylic Acid tert-butyl Ester | 0.27 g | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CC=C(C=C1)NCC1=CC=CC=C1 | C23H28N2O2
